US06765012B2
5-Chloro-3-{[4-(3-diethylamino-propoxy)-phenylamino]-methylene}-1,3-dihydro-indol-2-one
In a manner similar to that described in Example 231, 4-(3-diethylamino-propoxy)-phenylamine (911 mg, 1.3 equiv.) and 5-chloro-3-hydroxymethylene-1,3-dihydro-indol-2-one (617 mg, 3.16 mmol, 1 equiv.) are reacted to give the named compound as a yellow solid (577 mg, 46%).

reactant | 4-(3-diethylamino-propoxy)-phenylamine | 911 mg, 1.3 equiv. | C(C)N(CCCOC1=CC=C(C=C1)N)CC | C13H22N2O
reactant | 5-chloro-3-hydroxymethylene-1,3-dihydro-indol-2-one | 3.16 mmol, 617 mg, 1 equiv. | ClC=1C=C2C(C(NC2=CC1)=O)=CO | C9H6ClNO2
product | 5-Chloro-3-{[4-(3-diethylamino-propoxy)-phenylamino]-methylene}-1,3-dihydro-indol-2-one | 577 mg, 46% | ClC=1C=C2C(C(NC2=CC1)=O)=CNC1=CC=C(C=C1)OCCCN(CC)CC | C22H26ClN3O2
